US06784192B2
1-[(2-Methoxy-3-pyridyl)methyl]-4-(2-phenylphenethyl)piperidine
181 mg of 4-(2-phenylphenethyl)piperidine synthesized from the corresponding raw material in the same manner as in the above-mentioned process, 150 mg of 2-methoxy-3-pyridinecarboxaldehyde and 226 mg of sodium triacetoxy borohydride were suspended in 5 ml of tetrahydrofuran, and the mixture was stirred for 20 hours at room temperature. The reaction mixture was basified by adding a 1N aqueous sodium hydroxide thereto, and then extracted with ethyl acetate. The organic layer was washed with brine, and then dried over anhydrous magnesium sulfate. The solvent was evaporated, and the crude product was purified by NH form silica gel column chromatography (ethyl acetate:hexane=1:19), to give 213 mg of the title compound as a colorless oil.

reactant | 4-(2-phenylphenethyl)piperidine | 181 mg | C1(=CC=CC=C1)C1=C(CCC2CCNCC2)C=CC=C1 | C19H23N
reactant | 2-methoxy-3-pyridinecarboxaldehyde | 150 mg | COC1=NC=CC=C1C=O | C7H7NO2
reactant | sodium triacetoxy borohydride | 226 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 1-[(2-Methoxy-3-pyridyl)methyl]-4-(2-phenylphenethyl)piperidine | 213 mg | COC1=NC=CC=C1CN1CCC(CC1)CCC1=C(C=CC=C1)C1=CC=CC=C1 | C26H30N2O
